US06689922B1
5-{2-[3-(1,6-Dihydroxy-1,6-dimethylheptyl)phenyl]-vinyl}benzene-1,3-diol
In a manner similar to Example 1(j), by reacting 0.6 ml of concentrated sulphuric acid in 7.5 ml of methanol with 369 mg (0.65 mmol) of 2-{3-[2-(3,5-bis-ethoxymethoxyphenyl)vinyl}phenyl}-7-methyl-7-(tetrahydropyran-2-yloxy)octan-2-ol in 7.4 ml of THF, after purification on a silica column (ethyl acetate 70-heptane 30), a yellowish paste (m=220 mg; Y=92%) is obtained.

reactant | sulphuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-{3-[2-(3,5-bis-ethoxymethoxyphenyl)vinyl}phenyl}-7-methyl-7-(tetrahydropyran-2-yloxy)octan-2-ol | 0.65 mmol, 369 mg | C(C)OCOC=1C=C(C=C(C1)OCOCC)C=CC=1C=C(C=CC1)C(C)(CCCCC(C)(OC1OCCCC1)C)O | C34H50O7
solvent | methanol | 7.5 ml | CO | CH4O
solvent | THF | 7.4 ml | C1CCOC1 | C4H8O
product | 5-{2-[3-(1,6-Dihydroxy-1,6-dimethylheptyl)phenyl]-vinyl}benzene-1,3-diol | OC(CCCCC(C)(C)O)(C)C=1C=C(C=CC1)C=CC=1C=C(C=C(C1)O)O | C23H30O4
